US04782173
0.5 mmoles 1-acetoxy-3-methylthiopropene (Z:E ratio 43:57) and 2.5 mmoles 2-propanol were charged into a 71 cc stainless steel bomb equipped with a glass liner and a Teflon coated stir bar. No catalyst was added. Toluene was included as an internal standard. Five milliliters of tetrahydrofuran as a solvent were also included in the reaction system. The reaction mixture was charged under argon. The bomb was sealed and carbon monoxide at a pressure of 1000 psi (at room temperature) was charged to the bomb, and the bomb was heated to 100° C. and allowed to react for 44 hours with stirring. At the termination of the reaction, the reaction products were analyzed by gas chromatography and it was found that no 2-acetoxy-4-(methylthio)butanoic acid, 2-propyl ester was produced and that no 2-acetoxy-4-(methylthio)thiobutanoic acid, methyl ester was produced. 0.0515 mmoles of acrolein and 0.0456 mmoles of methyl acetate were the only products detectable.

reactant | 1-acetoxy-3-methylthiopropene | 0.5 mmoles | C(C)(=O)OC=CCSC | C6H10O2S
reactant | 2-propanol | 2.5 mmoles | CC(C)O | C3H8O
reactant | carbon monoxide | [C]=O | CO
reactant | 2-acetoxy-4-(methylthio)butanoic acid, 2-propyl ester | C(C)(=O)OC(C(=O)OC(C)C)CCSC | C10H18O4S
solvent | tetrahydrofuran | Five milliliters | O1CCCC1 | C4H8O
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 2-acetoxy-4-(methylthio)thiobutanoic acid, methyl ester | C(C)(=O)OC(C(=S)OC)CCSC | C8H14O3S2
